US08957089B2
83.4 tert-Butyl 4-{1-[1-(4-chlorophenyl)cyclobutyl]-7-methoxy-1,2,3,4-tetrahydroisoquinolin-6-yl}piperazine-1-carboxylate
A solution of 6-bromo-1-[1-(4-chlorophenyl)cyclobutyl]-7-methoxy-1,2,3,4-tetrahydroisoquinoline (203 mg, 0.5 mmol), Boc-piperazine (93 mg, 0.5 mmol), tris(benzylideaceton)dipalladium (18 mg, 0.02 mmol), sodium-tert-butylate (48 mg, 0.5 mmol) and 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine 815.7 mg, 0.04 mmol) under nitrogen in toluene (5 ml) was heated in the microwave to 120° C. for 10 minutes. The solvent was removed, the residue dissolved in methylenehloride and extracted with water. The methylenehloride was evaporated and the remaining solid purified by chromatography. Yield: 56 mg (0.1 mmol, 20%)

reactant | 6-bromo-1-[1-(4-chlorophenyl)cyclobutyl]-7-methoxy-1,2,3,4-tetrahydroisoquinoline | 0.5 mmol, 203 mg | BrC=1C=C2CCNC(C2=CC1OC)C1(CCC1)C1=CC=C(C=C1)Cl | C20H21BrClNO
reactant | Boc-piperazine | 0.5 mmol, 93 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | 0.04 mmol, 815.7 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 4-{1-[1-(4-chlorophenyl)cyclobutyl]-7-methoxy-1,2,3,4-tetrahydroisoquinolin-6-yl}piperazine-1-carboxylate | ClC1=CC=C(C=C1)C1(CCC1)C1NCCC2=CC(=C(C=C12)OC)N1CCN(CC1)C(=O)OC(C)(C)C | C29H38ClN3O3
